US06043246
(2) Preparation of 5-(4-methoxyphenyl)-3-(4-phenylpiperazinyl)-carbonylaminopyrazole
A mixture of 5-(4-methoxyphenyl)-3-phenoxycarbonylaminopyrazole (93 mg), 1-phenylpiperazine (54 mg) and triethylamine (91 mg) was heated under reflux for 2 hours in chloroform (3 ml). After the reaction solution was allowed to cool, ethyl ether (3 ml) was added thereto, and the thus precipitated crystals were collected by filtration and dried to obtain the title compound (103 mg) as colorless crystals (melting point: 235-245° C.).

reactant | 5-(4-methoxyphenyl)-3-phenoxycarbonylaminopyrazole | 93 mg | COC1=CC=C(C=C1)C1=CC(=NN1)NC(=O)OC1=CC=CC=C1 | C17H15N3O3
reactant | 1-phenylpiperazine | 54 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | 91 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-methoxyphenyl)-3-(4-phenylpiperazinyl)-carbonylaminopyrazole | 103 mg | COC1=CC=C(C=C1)C1=C(C(=NN1)N1CCN(CC1)C1=CC=CC=C1)N=C=O | C21H21N5O2
